US04617389
This compound was prepared by the procedure described in Example 1, except that the potassium carbonate was omitted. From 77 mg. of mitomycin A and 27 mg. of 4-methoxyaniline was obtained 70 mg. (74% yield) of the desired product having a melting point of 103°-108° C. (decomposition) and providing the following analysis:

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | mitomycin A | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
product | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
